US06162815
(b) Synthesis of methyl 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyloxy)benzoate
In a manner similar to Example 1(a) above, by the reaction of 1.1 g (5 mmol) of 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthol with 0.89 g (4.1 mmol) of methyl 4-bromobenzoate, 670 mg (46%) of the expected methyl ester of melting point 133-5° C. were obtained.

reactant | 3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthol | 5 mmol, 1.1 g | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)O | C15H22O
reactant | methyl 4-bromobenzoate | 4.1 mmol, 0.89 g | BrC1=CC=C(C(=O)OC)C=C1 | C8H7BrO2
product | methyl 4-(3,5,5,8,8-pentamethyl-5,6,7,8-tetrahydro-2-naphthyloxy)benzoate | CC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)OC1=CC=C(C(=O)OC)C=C1 | C23H28O3
